US06326386B1
{2-[3-Chloro-5-(3-fluorophenyl-(3-tetrazol-2-yl-propyl)-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester
2M Oxalyl chloride solution in dichloromethane (0.11 ml) and dry DMF (0.002 ml) were added to a stirred suspension of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (0.060 g) in dry dichloromethane (1 ml) under nitrogen. After 5 min, DIPEA (0.090 ml) was added followed after a further 40 min by 3-fluorophenyl-(3-tetrazol-2-yl-propyl)-amine (0.066 g) and DMAP (0.002 g). After 3 days the solvent was evaporated and the residue was purified by flash chromatography eluting with dichloromethane:methanol (98:2 v/v) to give the title compound as a green foam (0.079 g).

reactant | Oxalyl chloride | 2M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.060 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | DIPEA | 0.090 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-fluorophenyl-(3-tetrazol-2-yl-propyl)-amine | 0.066 g | FC=1C=C(C=CC1)NCCCN1N=CN=N1 | C10H12FN5
solvent | dichloromethane | 0.11 ml | ClCCl | CH2Cl2
solvent | DMF | 0.002 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.002 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | {2-[3-Chloro-5-(3-fluorophenyl-(3-tetrazol-2-yl-propyl)-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 0.079 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CCCN1N=CN=N1)C1=CC(=CC=C1)F)=O)Cl)=O | C29H31ClFN7O4
